US04963566
To a solution of 8-(t-butyldimethylsilyloxymethyl)-4-hydroxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline (1.98 g) in pyridine (5 ml), acetic anhydride was added dropwise with stirring under ice-cooling and the mixture was stirred for 2 hours at room temperature. Pyridine was distilled off under reduced pressure, and the resultant residue was extracted with dichloromethane. After washing with a saturated aqueous solution of copper sulfate and with water in this order, the mixture was dried and the solvent was distilled off under reduced pressure to give 8-t-butyldimethylsilyloxymethyl-4-acetyloxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline (2.23 g).

reactant | 8-(t-butyldimethylsilyloxymethyl)-4-hydroxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline | 1.98 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(CCN(C12)CC)CO | C19H33NO2Si
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 8-t-butyldimethylsilyloxymethyl-4-acetyloxymethyl-1-ethyl-1,2,3,4-tetrahydroquinoline | 2.23 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(CCN(C12)CC)COC(C)=O | C21H35NO3Si
